data/specific_train_final.csv
[CH3:8][CH:7]([CH3:9])[CH:6]([CH2:5][O:4])[OH:10].[N:2](=[O:3])[O:1]>>[CH3:8][CH:7]([CH3:9])[CH:6]([CH2:5][O:4])[OH:10].[N+:2](=[O:3])[O-:1] 2-1,Room Temperature,Propagation,ha resonance
"[H:20][C:21](=O)C1(C(O1)/C=C\C(=O)CC)C.[OH:10]>>[H:20][OH:10].CCC(=O)/C=C\C1C(O1)(C)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:8][O:9][O:10][O:11].[CH3:5][C:4]([CH3:6])([CH3:7])[O:3][CH2:2][O:1]>>[H:8][O:9].[CH3:5][C:4]([CH3:6])([CH3:7])[O:3][CH2:2][O:1].[O:10][O:11] 9,10-9; 9,10-10",Room Temperature,Initiation,homolyze
"[H:20][C:21](=O)C1C(O1)/C=C\C(=O)CC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCC(=O)/C=C\C1C(O1)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1(C2CC1C(C(C2)O)(C)[O:20])C.[N+:10](=O)[O-]>>CC1(C2CC1C(C(C2)O)(C)[O:20][N+:10](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=CC=C(C=C1)[CH2:10].[O:20][O]>>CC1=CC=C(C=C1)[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21]/[CH:22]=[C:23](C)\C(COO)O[O:10]>>[O:21]=[CH:22][C:23](C)C(COO)O[O:10][H:20] 10-10,20;20,21-10,20;20,21-21,22;22,23-21,22;22,23-23",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(C)(C(C)(C)O[O:10])O>>[H:20][O:10]OC(C)(C)C(C)(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(C[O:20])O.[N+:10](=O)[O-]>>CCCC(C[O:20][N+:10](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(O)Cl)[O:20][O:21]N=O>>C(C(O)Cl)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCC(C)(C)O[O:20].[N+](=O)([O-])[O:10]>>CCCCC(C)(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:8][CH2:7][C:6]([CH3:9])([CH2:10][CH3:11])[O:5][O:4][O:3][N+:2](=[O:1])[O-:12]>>[CH3:8][CH2:7][C:6]([CH3:9])([CH2:10][CH3:11])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:12] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"OC/C(C)=C/CO[O:10].[O][O:12][H:11]>>OC/C(C)=C/CO[O:10][H:11].[O][O:12] 10-10,11;11,12-11,10;11,12-12",Room Temperature,Propagation,abstraction
"[CH2:10]CCl.[O:20][O]>>[CH2:10](CCl)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(O[O:20])(Cl)Cl.[N+](=O)([O-])[O:10]>>C(O[O:20][O:10][N+](=O)[O-])(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)OCC[O:20][O:21]N=O>>CC(C)(C)OCC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCC(C[O:21][O:20][O])O.[N+](=O)[O-]>>CCCCC(C[O:21])O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"COC(CO)O[O:20].[N:10]=O>>COC(CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CS[CH2:10].[O:20][O]>>CS[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)[CH:10]C(C1C(O1)C=O)O.[O:20][O]>>CC(=O)[CH:10](C(C1C(O1)C=O)O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][S:2][CH2:3][O:4][O:5][O:6][N+:7](=[O:8])[O-:9]>>[CH3:1][S:2][CH2:3][O:4][O:5][O:6].[N+:7](=[O:8])[O-:9] 6,7-7; 6,7-6",Room Temperature,Initiation,homolyze
"[H:7][C:6]([H:8])[CH:5]=[C:2]([CH3:1])[CH2:3][Cl:4].[O:9][O:10]>>[H:7][C:6]([H:8])([CH:5]=[C:2]([CH3:1])[CH2:3][Cl:4])[O:9][O:10] 6-6,9; 9-9,6",Room Temperature,Termination,recombine
"[CH3:14][CH2:13][C:7]1=[CH:6][C:3]([CH:10]([C:9](=[CH:8]1)[CH3:12])[OH:11])([CH2:2][CH3:1])[O:4][O:5]>>[CH3:14][CH2:13][C:7]1=[CH:6][C:3]2([CH:10]([C:9]([CH:8]1)([O:5][O:4]2)[CH3:12])[OH:11])[CH2:2][CH3:1] 5-5,9; 9,8-5,9; 9,8-8",Room Temperature,Propagation,addition
"CCC12C=C([CH:10]C(C1O)([O:20][O:21]2)C)C>>CCC1(C=C([CH:10]2C(C1O)([O:20]2)C)C)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(O[O:20])(Cl)Cl.[N:10]=O>>CC(O[O:20][N:10]=O)(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C2CCC(C1C2)(CO[O:20])O[N+](=O)[O-])C.[N+](=O)([O-])[O:10]>>CC1(C2CCC(C1C2)(CO[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:10]C(CCl)Cl.[O:20][O]>>[CH2:10](C(CCl)Cl)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][C:22](C)COC.[O:10][O]>>[H:20][O:10][O].C[C:22](=[O:21])COC 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[CH3:1][C:2](=[CH2:7])[C:3](=[O:6])[O:4][O:5].[N:8]=[O:9]>>[CH3:1][C:2](=[CH2:7])[C:3](=[O:6])[O:4][O:5][N:8]=[O:9] 5-5,8;8-5,8",Room Temperature,Termination,recombine
"CCC[C:20]1(C=CC2C([CH:21]1O)O2)[O:10]>>CCC[C:20](=[O:10])C=CC1C(O1)[CH:21]O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"C1=CC=C(C=C1)COO[O:20][N+:21](=O)[O-]>>C1=CC=C(C=C1)COO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC12C=C([CH:20]C(C1O)(OO2)C)C.[O:10][O]>>CCC12C=C([CH:20](C(C1O)(OO2)C)[O:10][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21](C)CCC(C)C.[OH:10]>>[H:20][OH:10].C[CH:21]CCC(C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
